### PR TITLE
feat: `norm_num` extension for `IsSquare` on `Nat`, `Int`, `Rat`

### PR DESCRIPTION
**Pull request by plp127**
Write a `norm_num` extension to evaluate `IsSquare` for `Nat`, `Int`, `Rat`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 1]
```diff
@@ -0,0 +1,136 @@
...
+    ¬IsSquare x := fun h => hn (Rat.isSquare_iff.1 h).1
+
+theorem not_isSquare_rat_of_den {x : ℚ} (hd : ¬IsSquare x.den) :
+    ¬IsSquare x := fun h => hd (Rat.isSquare_iff.1 h).2
+
+end lemmas
+
+/-- Given the natural number literal `ex`, returns a proof that it's a square
+or a proof that it's not. Panics if `ex` isn't a natural number literal. -/
+def proveIsSquareNat (ex : Q(ℕ)) : Q(IsSquare $ex) ⊕ Q(¬IsSquare $ex) :=
```
Comment (plp127) [inline Mathlib/Tactic/NormNum/IsSquare.lean:73]: I just found out about `BoolResult`, use that here instead?

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 2]
```diff
@@ -0,0 +1,136 @@
...
+namespace Tactic
+
+namespace NormNum
+
+open Qq Lean Elab.Tactic Mathlib.Meta.NormNum
+
+section lemmas
+
+theorem nat_isSquare_helper {x y : ℕ} (hy : x.sqrt = y)
+    (hxz : Nat.beq x (y * y) = false) : ¬IsSquare x := by
```
Comment (Rob23oba) [inline Mathlib/Tactic/NormNum/IsSquare.lean:27]: Maybe something simpler that doesn't rely on `sqrt`: `Nat.ble x (y.mul y) = false` + `Nat.ble (y.succ.mul y.succ) x = false` (i.e. `y ^ 2 < x < (y + 1) ^ 2`).

Comment (vasnesterov) [reply Mathlib/Tactic/NormNum/IsSquare.lean:27]: This is what I did in #22794. I think it's even possible to reduce `IsSquare a` to `IsIrrational (Real.sqrt (a : ℝ))` and then call `norm_num`. It should be almost as efficient as custom `IsSquare` extension.

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 3]
```diff
@@ -0,0 +1,136 @@
...
+
+/-- `norm_num` extension that proves `IsSquare x` for `x : ℕ`. -/
+@[norm_num IsSquare (_ : ℕ)]
+def evalIsSquareNat : NormNumExt where eval {u α} e := do
+  let 0 := u | failure
+  let ~q(Prop) := α | failure
+  let ~q(IsSquare ($x : ℕ)) := e | failure
+  let ⟨ex, px⟩ ← deriveNat x q(instAddMonoidWithOneNat)
+  match proveIsSquareNat ex with
+  | .inl pf => return .isTrue q(isSquare_of_isNat_nat $px $pf)
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/IsSquare.lean:92]: I think you can simplify this and get rid of the `isSquare_of_isNat_nat` lemma:
 `q(isSquare_of_isNat_nat $px $pf)` -> `q($pf)`

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 4]
```diff
@@ -0,0 +1,136 @@
...
+  | .inr pf => return .isFalse q(not_isSquare_of_isNat_nat $px $pf)
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/IsSquare.lean:93]: I think you can simplify this and get rid of the `not_isSquare_of_isNat_nat` lemma:
`q(not_isSquare_of_isNat_nat $px $pf)` -> `q($pf)`

File: Mathlib/Tactic/NormNum/IsSquare.lean (hunk 2 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/IsSquare.lean:27]: > I think it's even possible to reduce `IsSquare a` to `IsIrrational (Real.sqrt (a : ℝ))` and then call `norm_num`. 

That seems a bit roundabout to me. Moreover, currently the `IsIrrational` extension never returns `False`.

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/IsSquare.lean:27]: > Maybe something simpler that doesn't rely on sqrt: ...

Are you suggesting that it might be better to avoid calling `proveNatSqrt` below? What would be the benefit? We would need to re-implement some kind of search procedure, right?

File: Mathlib/Tactic/NormNum/IsSquare.lean (hunk 1 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/IsSquare.lean:73]: This makes sense to me as-is, and follows the pattern of existing code: https://github.com/leanprover-community/mathlib4/blob/1b1b0285e5e642fdea522b9329792cdb3edbdd5e/Mathlib/Tactic/NormNum/IsCoprime.lean#L38

File: Mathlib/Tactic/NormNum/IsSquare.lean (hunk 2 above)
Comment (Rob23oba) [reply Mathlib/Tactic/NormNum/IsSquare.lean:27]: Well I don't think it would take much effort, just something like
```lean-4
  let x := ex.natLit!
  let y := x.sqrt
  let ey : Q(ℕ) := mkRawNatLit y
  if x = y * y then
    have : ($ey * $ey) =Q $ex := ⟨⟩
    .inl q(⟨$ey, Eq.refl $ex⟩)
  else
    have gt : Q(Nat.ble $ex (($ey).mul $ey) = false) := reflBoolFalse
    have lt : Q(Nat.ble (($ey).succ.mul ($ey).succ) = false) := reflBoolFalse
    .inr q(nat_isSquare_helper $gt $lt)
```
it's just one less intermediate step you have to do

**Comment by vasnesterov** [comment]
I feel like much of the internal logic here repeats what I already did in #22794. To test this, I opened #31671, which implements `IsSquare` via `Irrational` in a trivial way. The only issue is that it requires far more imports than necessary. I think we should reuse the lemmas currently in `Irrational.lean` to implement the `IsSquare` extension (and then import it in `Irrational.lean`).

**Comment by yury-harmonic** [comment]
@plp127 In #32365 I implement a similar extension without forcing the kernel to evaluate `Nat.sqrt`. Could you please have a look?
